US08022215B2
Ethyl-4,5-dioxo-1,4,5,6,7,8-hexahydroquinoline-3-carboxylate (714 mg, 3.04 mmol) was suspended in degassed N,N-dimethylformamide (8 mL) and treated with 1,3-dibromo-1-propene (0.364 mL, 3.64 mmol, 1.2 equiv) and potassium carbonate (503 mg, 3.64 mmol, 1.2 equiv). After stirring for 7 hrs at ambient temperature, the mixture was poured into water and extracted three times with ethyl acetate. The combined ethyl acetate extracts were washed once with water and brine, dried with sodium sulfate, filtered and concentrated in vacuo to afforded ethyl 1-[3-bromoprop-2-en-1-yl]-4,5-dioxo-1,4,5,6,7,8-hexahydroquinoline-3-carboxylate as a mixture of E- and Z-isomers. Additional compound was obtained by concentration of the aqueous extract in vacuo and extraction of the resulting residue with a mixture of 80% chloroform and 20% methanol (v/v).

reactant | Ethyl-4,5-dioxo-1,4,5,6,7,8-hexahydroquinoline-3-carboxylate | 3.04 mmol, 714 mg | C(C)OC(=O)C1=CNC=2CCCC(C2C1=O)=O | C12H13NO4
reactant | 1,3-dibromo-1-propene | 3.64 mmol, 0.364 mL, 1.2 equiv | BrC=CCBr | C3H4Br2
reactant | potassium carbonate | 3.64 mmol, 503 mg, 1.2 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | ethyl 1-[3-bromoprop-2-en-1-yl]-4,5-dioxo-1,4,5,6,7,8-hexahydroquinoline-3-carboxylate | BrC=CCN1C=C(C(C=2C(CCCC12)=O)=O)C(=O)OCC | C15H16BrNO4
